US07622589B2
64A) 1-[1,1-Bis(methyloxy)ethyl]-4-tert-butylbenzene
To a stirred solution of 4′-tert-butylacetophenone (purcashed from Aldrich, 1.76 g, 10 mmol) in MeOH (1 mL) was added trimethyl orthoformate (1.97 g, 11 mmol) and tetrabutylammonium tribromide (48.2 mg, 0.1 mmol) successively. The same reaction procedure as described in Example 63A was performed to give the title compound (2.33 g) as a yellow oil.

reactant | 4′-tert-butylacetophenone | 10 mmol, 1.76 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)=O | C12H16O
reactant | trimethyl orthoformate | 11 mmol, 1.97 g | C(OC)(OC)OC | C4H10O3
reactant | MeOH | 1 mL | CO | CH4O
catalyst | tetrabutylammonium tribromide | 0.1 mmol, 48.2 mg | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[1,1-Bis(methyloxy)ethyl]-4-tert-butylbenzene | 2.33 g | COC(C)(OC)C1=CC=C(C=C1)C(C)(C)C | C14H22O2
